US08877351B2
Step 1: Synthesis of Dibenzo[f,h]quinoxaline-1-oxide
First, to a solution in which 1.36 g of dibenzo[f,h]quinoxaline was dissolved in 20 mL of dichloromethane was added 2.04 g of 3-chlorobenzoic acid (abbreviation: MCPBA) in a nitrogen atmosphere, followed by stirring at room temperature for 1 week. Water was added to this mixture, and the organic layer was extracted with dichloromethane. The obtained organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and dried over anhydrous magnesium sulfate. Then, the resulting solution was filtered. The solvent of this solution was distilled off. The resulting residue was purified by silica gel column chromatography which uses a mixed solvent of dichloromethane and ethyl acetate as a developing layer. By recrystallization from dichloromethane, the object of the synthesis was obtained (as a white powder in a yield of 51%). The synthesis scheme of Step 1 is illustrated in the following (a″′-2-1).

reactant | 3-chlorobenzoic acid | 2.04 g | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | Water | O | H2O
reactant | dibenzo[f,h]quinoxaline | 1.36 g | N1=CC=NC2=C3C(=C4C(=C12)C=CC=C4)C=CC=C3 | C16H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Dibenzo[f,h]quinoxaline-1-oxide | yield of 51% | [N+]1(=CC=NC2=C3C(=C4C(=C12)C=CC=C4)C=CC=C3)[O-] | C16H10N2O
